US06124330
Aluminium(III)chloride (0.666 mol) was added portionwise at RT to a solution of N-phenyl-2-benzothiazolylamine (0.222 mol) and 1,2dichloro-1-propanone (0.233 mol) in 1,2-dichloroethane (500 ml) and the mixture was stirred and heated at 80° C. for 2 hours. The mixture was poured into ice and extracted with CH2Cl2. The organic layer was decanted, dried filtered and the solvent was evaporated, yielding 68 g of (±)-1-[4-(2-benzothiazolylamino)phenyl]-2-chloro-1-propanone (95.7%) (interm. 22).

reactant | Aluminium(III)chloride | 0.666 mol | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | N-phenyl-2-benzothiazolylamine | 0.222 mol | C1(=CC=CC=C1)NC=1SC2=C(N1)C=CC=C2 | C13H10N2S
reactant | 1,2dichloro-1-propanone | 0.233 mol | ClC(C(C)Cl)=O | C3H4Cl2O
solvent | 1,2-dichloroethane | 500 ml | ClCCCl | C2H4Cl2
product | (±)-1-[4-(2-benzothiazolylamino)phenyl]-2-chloro-1-propanone | 68 g, 95.7% | S1C(=NC2=C1C=CC=C2)NC2=CC=C(C=C2)C(C(C)Cl)=O | C16H13ClN2OS
